US04742052
To a solution of N-p-nitrobenzyloxycarbonyl-4-hydroxymethylpiperidine (20 g) in dry pyridine (127 ml) was added p-toluenesulfonyl chloride (25.8 g) with ice-cooling, and the reaction mixture was kept overnight at the same temperature, diluted with ice water and extracted with diethyl ether dichloromethane. The extract was washed successively with water, dilute hydrochloric acid, aqueous sodium bicarbonate and again water, dried over anhydrous sodium sulfate and evaporated to give an oily residue which was crystallized from methanol to give N-p-nitrobenzyloxycarbonyl-4-p-toluenesulfonyloxymethylpiperidine.

reactant | N-p-nitrobenzyloxycarbonyl-4-hydroxymethylpiperidine | 20 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCC(CC2)CO)C=C1 | C14H18N2O5
reactant | p-toluenesulfonyl chloride | 25.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 127 ml | N1=CC=CC=C1 | C5H5N
product | N-p-nitrobenzyloxycarbonyl-4-p-toluenesulfonyloxymethylpiperidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCC(CC2)COS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C21H24N2O7S
